US08003649B2
Iodomethane (1.22 mL, 19.63 mmol) was added in one portion to 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylic acid (6.72 g, 19.63 mmol) and potassium carbonate (3.26 g, 23.55 mmol) in DMF (60 mL) at ambient temperature. The resulting mixture was stirred at ambient temperature for 3 hours then quenched in water (200 mL) and extracted with MTBE (2×100 mL). The extract was washed sequentially with water (3×100 mL) and saturated brine, dried over MgSO4 and concentrated by evaporation then purified by flash silica chromatography, elution gradient 20 to 35% EtOAc in isohexane. Pure fractions were evaporated to dryness to afford methyl 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylate (5.09 g, 73%) as a colourless solid.

reactant | Iodomethane | 19.63 mmol, 1.22 mL | IC | CH3I
reactant | 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylic acid | 19.63 mmol, 6.72 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)O | C19H22N2O4
reactant | potassium carbonate | 23.55 mmol, 3.26 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | methyl 3-[1-(tert-butoxycarbonyl)-1,2,3,6-tetrahydropyridin-4-yl]-1H-indole-5-carboxylate | 5.09 g, 73% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=CC=C(C=C12)C(=O)OC | C20H24N2O4
